US06103910
c) (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethyl]-1,3-dibutyl-ureido]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 278 mg (0.47 mmol) (R)-1 -[[3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-1,3-dibutyl-ureido]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 2 ml trifluoroacetic acid was stirred for 4 h at room temperature. The solvent was removed in vacuo and the residue was dried to give 167 mg (74%) of the title compound as brown foam.

reactant | (R)-1 -[[3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-1,3-dibutyl-ureido]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.47 mmol, 278 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(CN(C(=O)N(CCCC)CC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)CCCC)=O | C31H54N4O7
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethyl]-1,3-dibutyl-ureido]-acetyl]-pyrrolidine-2-carboxylic acid | 167 mg, 74% | C(=O)(O)[C@@H]1N(CCC1)C(CN(C(N(CCCC)CC(=O)N1[C@H](CCC1)C(=O)O)=O)CCCC)=O | C23H38N4O7
